### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): morphisms to K-injective complexes in the derived category

### PR DESCRIPTION
**Pull request by joelriou**
We compute the type of morphisms to K-injective complexes in the derived category.
(Some definitions about acyclic complexes are also moved from `DerivedCategory.Basic` to a new file `HomotopyCategory.Acyclic`.)

---

- [x] depends on: #31941
- [x] depends on: #31843
- [x] depends on: #31842
- [x] depends on: #31841

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/HomotopyCategory/HomComplex.lean [hunk 1]
```diff
@@ -775,6 +775,31 @@ lemma equivHomotopy_apply_of_eq {φ₁ φ₂ : F ⟶ G} (h : φ₁ = φ₂) :
...
+  rw [if_pos, id_comp, comp_id]
+  tauto
+
+lemma single_v_eq_zero {p q : ℤ} (f : K.X p ⟶ L.X q) (n : ℤ) (p' q' : ℤ) (hpq' : p' + n = q')
+    (hp' : p' ≠ p) :
+    (single f n).v p' q' hpq' = 0 := by
+  dsimp [single]
+  rw [dif_neg]
+  intro h
+  exact hp' (by linarith)
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/HomotopyCategory/HomComplex.lean]:
```suggestion
  exact hp' (by cutsat)
```
